US04954501
6-[4-(4-ethoxycarbonyl-piperidin-1-yl)-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
2.68 g (10 mmol) of 6-(4-chloro-3-nitro-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone are boiled under reflux with 3.14 g (20 mmol) of piperidine-4-carboxylic acid ethyl ester and 0.81 ml (10 mmol) of pyridine in 50 ml of dioxane for 5 hours. The reaction mixture is then poured out on 200 ml of ice water and suction filtered to separate the solid, and the filter cake is then washed with water.

reactant | 6-(4-chloro-3-nitro-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 10 mmol, 2.68 g | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C11H10ClN3O3
reactant | piperidine-4-carboxylic acid ethyl ester | 20 mmol, 3.14 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | pyridine | 10 mmol, 0.81 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-[4-(4-ethoxycarbonyl-piperidin-1-yl)-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(C)OC(=O)C1CCN(CC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C19H24N4O5
